US05644024
A mixture of 90.0 mg (0.147 mmol) of methyl (S)-8-(2-benzyloxycarbonyl-phenoxy)-5-bromo-2-(tert.butoxycarbonylamino)-1,2,3,4-tetrahydro-naphthalene-2-carboxylate, 19.2 mg (0.295 mmol) of potassium cyanide, 6.5 mg (11.8 μmol) of 1,1'-bis-(diphenylphosphino)-ferrocene and 3,0 mg (2.9 μmol) of bis-(dibenzylideneacetone)-di-palladium (Pd2 dba3) in 0.2 ml of N,N-dimethylacetamide was stirred at 800 under argon for 15 hours, cooled and filtered over Celite, whereupon the filtrate was evaporated. The residue was chromatographed on 30 g of silica gel with hexane/ethyl acetate (9:1→1:1), whereby firstly 71 mg (78.9%) of starting material were recovered; subsequently there were obtained about 7.0 mg (8.6%) of crude methyl (S)-8-(2-benzyloxycarbonyl-phenoxy)-2-(tert.butoxycarbonylamino)-5-cyano-1,2,3,4-tetrahydro-naphthalene-2-carboxylate which was purified by means of preparative HPLC chromatography (column: Vydac 250-10 RP-18; programme: 60% acetonitrile→100% acetonitrile in 20 minutes). 5.5 mg (6.7% based on starting material used; 31.6% based on reacted starting product) of pure product were obtained. MS: 556 (M+., <1), 439 (10), 397 (20), 91 (100), 57 (24).

reactant | methyl (S)-8-(2-benzyloxycarbonyl-phenoxy)-5-bromo-2-(tert.butoxycarbonylamino)-1,2,3,4-tetrahydro-naphthalene-2-carboxylate | 0.147 mmol, 90.0 mg | C(C1=CC=CC=C1)OC(=O)C1=C(OC=2C=CC(=C3CC[C@](CC23)(C(=O)OC)NC(=O)OC(C)(C)C)Br)C=CC=C1 | C31H32BrNO7
reactant | potassium cyanide | 0.295 mmol, 19.2 mg | [C-]#N.[K+]
solvent | N,N-dimethylacetamide | 0.2 ml | CN(C(C)=O)C | C4H9NO
catalyst | 1,1'-bis-(diphenylphosphino)-ferrocene | 11.8 μmol, 6.5 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | bis-(dibenzylideneacetone)-di-palladium | 2.9 μmol, 3,0 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl (S)-8-(2-benzyloxycarbonyl-phenoxy)-2-(tert.butoxycarbonylamino)-5-cyano-1,2,3,4-tetrahydro-naphthalene-2-carboxylate | about 7.0 mg, 8.6% | C(C1=CC=CC=C1)OC(=O)C1=C(OC=2C=CC(=C3CC[C@](CC23)(C(=O)OC)NC(=O)OC(C)(C)C)C#N)C=CC=C1 | C32H32N2O7
